US07923450B2
2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6-methyl-8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ol
A mixture of 1-methyl-4-oxo-5-phenyl-piperidine-3-carboxylic acid ethyl ester hydrochloride (89 mg, 0.3 mmol), N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (111 mg, 0.33 mmol), and triethylamine (0.21 mL, 1.5 mmol) in ethanol (2 mL) was heated at 78° C. for 18 h. The mixture was cooled, diluted with ethyl acetate (40 mL), and then washed with saturated aqueous sodium carbonate solution (10 mL) and with brine (10 mL). The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residual material was purified by column chromatography on silica gel using ethyl acetate/0-30% ethanol as eluent to give the title compound (43 mg, 32%) as a brown solid (from ethyl acetate/cyclohexane). MS ISP (m/e): 443.5 [(M+H)+]. mp 152-155° C.

reactant | 1-methyl-4-oxo-5-phenyl-piperidine-3-carboxylic acid ethyl ester hydrochloride | 0.3 mmol, 89 mg | Cl.C(C)OC(=O)C1CN(CC(C1=O)C1=CC=CC=C1)C
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.33 mmol, 111 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6-methyl-8-phenyl-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ol | 43 mg, 32% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1N=C(C2=C(N1)C(CN(C2)C)C2=CC=CC=C2)O | C25H26N6O2
